US04250085
Ethyl cyclopropylaminoacetate was stirred in a mixture of concentrated hydrochloric acid and water until the reaction had subsided. The mixture was then heated to reflux for 2 hours. The resulting solution was evaporated to give a white solid which was triturated with acetone and recrystallised from methanol/ethyl acetate to give cyclopropylaminoacetic acid hydrochloride of melting point 189°-191° C. (decomposition).

reactant | Ethyl cyclopropylaminoacetate | C1(CC1)NCC(=O)OCC | C7H13NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | cyclopropylaminoacetic acid hydrochloride | Cl.C1(CC1)NCC(=O)O | InChI=1S/C5H9NO2.ClH/c7-5(8)3-6-4-1-2-4;/h4,6H,1-3H2,(H,7,8);1H
